US08198311B2
A solution of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanoyl fluoride (1.65 g, 4.23 mmol) in anhydrous THF (30 mL) at −78° C. was bubbled NH3 (g) for 10 minutes. The reaction mixture was sealed and stirred at −78° C. for 15 min and at rt for 1 hr. Water (100 mL) was added, the reaction mixture was extracted with ethyl acetate (100 mL), dried (Na2SO4), and concentrated to give 1.62 g (100% yield) of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanamide, the NMR spectrum of which was consistent with the desired structure.

reactant | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanoyl fluoride | 4.23 mmol, 1.65 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)F)(C)C)CC(C)C | C22H24F2N2O
reactant | NH3 | N | H3N
reactant | Water | 100 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhexanamide | 1.62 g, 100% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)N)(C)C)CC(C)C | C22H26FN3O
